US07592363B2
2-(4-CHLORO-2-FLUOROBENZYL)-3-[3-(2-PHENYLETHYL)PHENYL]-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
To a suspension of benzyl-phosphonic acid diethyl ester (20 μL, 1 eq) and sodium hydride (6 mg, 1.5 eq) in DMPU (0.5 mL), 3-[2-(4-chloro-2-fluoro-benzyl)-7-trifluoromethyl-2H-indazol-3-yl]-benzaldehyde (45 mg, 1 eq) was added. The reaction mixture was stirred for 45 minutes at room temperature, quenched with water and extracted with diethyl ether. The volatiles were removed and the residue purified by flash chromatography (silica, ethyl acetate/n-heptane, 2:8). The product obtained was dissolved in ethanol (2 mL) and hydrogenated at 1 atm using 7% platinum oxide as a catalyst. Filtration through Celite® and flash chromatography, eluent: dichloromethane/n-hepatane, 1:1, furnished the title compound in 11% overall yleld.

reactant | benzyl-phosphonic acid diethyl ester | 20 μL, 1 eq | C(C)OP(OCC)(=O)CC1=CC=CC=C1 | C11H17O3P
reactant | sodium hydride | 6 mg, 1.5 eq | [H-].[Na+]
reactant | 3-[2-(4-chloro-2-fluoro-benzyl)-7-trifluoromethyl-2H-indazol-3-yl]-benzaldehyde | 45 mg, 1 eq | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C=2C=C(C=O)C=CC2)C(F)(F)F)C=C1)F | C22H13ClF4N2O
solvent | DMPU | 0.5 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 2-(4-CHLORO-2-FLUOROBENZYL)-3-[3-(2-PHENYLETHYL)PHENYL]-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C2=CC(=CC=C2)CCC2=CC=CC=C2)C(F)(F)F)C=C1)F | C29H21ClF4N2
